US07652021B2
b.) N-(3-{[2-(2-cyano-(2S)-4,4-difluoropyrrolidin-1-yl)-2-oxoethyl]amino}-1-adamantyl)-4-methoxybenzamide dihydrochloride monohydrate
132 mg (0.45 mmole) of N-(3-Amino-1-adamantyl)-4-methoxybenzamide are reacted with 87 mg (0.42 mmole) of (2S)-1-(chloroacetyl)-4,4-difluoro-pyrrolidine-2-carbonitrile in the presence 340 mg (1.32 mmole) PS-DIEA in 25 ml acetonitrile, as described in Example 2/b.). After work-up and chromatographic purification (chloroform-methanol-25% aqueous ammonia solution 9:1:0.1) and acidification ethereal hydrochloride acide the title compound is obtained: 90 mg (46%). M.p.: 160-161° C. 1H-NMR (DMSO-d6): 1.60 (dd, 2H), 1.85 (m, 6H), 2.14 (m, 2H), 2.30 (m, 2H), 2.38 (m, 2H), 2.87 (m, 2H), 3.79 (s, 3H), 4.17 (m, 2H), 4.26 (m, 1H), 4.47 (m, 1H), 5.21 (m, 1H), 6.95 (d, 2H), 7.71 (s, 1H), 7.77 (d, 2H), 9.41 (b, 2H), 9.02 (b, 2H).

reactant | N-(3-Amino-1-adamantyl)-4-methoxybenzamide | 0.45 mmole, 132 mg | NC12CC3(CC(CC(C1)C3)C2)NC(C2=CC=C(C=C2)OC)=O | C18H24N2O2
reactant | (2S)-1-(chloroacetyl)-4,4-difluoro-pyrrolidine-2-carbonitrile | 0.42 mmole, 87 mg | ClCC(=O)N1[C@@H](CC(C1)(F)F)C#N | C7H7ClF2N2O
reactant | DIEA | CCN(C(C)C)C(C)C | C8H19N
solvent | acetonitrile | 25 ml | C(C)#N | C2H3N
product | N-(3-{[2-(2-cyano-(2S)-4,4-difluoropyrrolidin-1-yl)-2-oxoethyl]amino}-1-adamantyl)-4-methoxybenzamide dihydrochloride monohydrate | O.Cl.Cl.C(#N)[C@H]1N(CC(C1)(F)F)C(CNC12CC3(CC(CC(C1)C3)C2)NC(C2=CC=C(C=C2)OC)=O)=O | InChI=1S/C25H30F2N4O3.2ClH.H2O/c1-34-20-4-2-18(3-5-20)22(33)30-24-9-16-6-17(10-24)8-23(7-16,14-24)29-13-21(32)31-15-25(26,27)11-19(31)12-28;;;/h2-5,16-17,19,29H,6-11,13-15H2,1H3,(H,30,33);2*1H;1H2/t16?,17?,19-,23?,24?;;;/m0.../s1
